US08431607B2
N-((4S,5S)-3-(4-(4-chloro-phenoxy)-phenyl)-2-oxo-4-phenyl-oxazolidin-5-ylmethyl)-methanesulfonamide
To a solution of (4S,5S)-3-(4-(4-chlorophenoxy)phenyl)-5-(aminomethyl)-4-phenyl-oxazolidin-2-one (14 mg, 0.035 mmol) and triethylamine (0.01 mL, 0.07 mmol) in dichloromethane (0.4 mL) at 0° C. was added mesyl chloride (0.005 mL, 0.05 mmol). The reaction mixture was stirred for 10 min and was then quenched with saturated NaHCO3 aqueous solution. Water and dichloromethane was added and the organic was washed with brine, dried (MgSO4), and concentrated. Purification by prep-LC (10-90% Acetonitrile/water (0.05% ammonium acetate) gave 5 mg (31%). 1H NMR (acetone-d6) δ (ppm) 7.45-7.51 (m, 4H), 7.32-7.42 (m, 5H), 6.94-6.97 (m, 4H), 6.66 (t, 1H, J=6.6 Hz), 5.56 (d, 1H, J=5.6 Hz), 4.51, (dd, 1H, J=10.1, 4.7 Hz), 3.59-3.72 (m, 2H), 3.04 (s, 3H). HPLC-MS calculated C23H21ClN2O5S (M+H+): 473.1, found: 473.1.

reactant | (4S,5S)-3-(4-(4-chlorophenoxy)phenyl)-5-(aminomethyl)-4-phenyl-oxazolidin-2-one | 0.035 mmol, 14 mg | ClC1=CC=C(OC2=CC=C(C=C2)N2C(O[C@H]([C@@H]2C2=CC=CC=C2)CN)=O)C=C1 | C22H19ClN2O3
reactant | triethylamine | 0.07 mmol, 0.01 mL | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 0.05 mmol, 0.005 mL | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | dichloromethane | 0.4 mL | ClCCl | CH2Cl2
product | N-((4S,5S)-3-(4-(4-chloro-phenoxy)-phenyl)-2-oxo-4-phenyl-oxazolidin-5-ylmethyl)-methanesulfonamide | ClC1=CC=C(OC2=CC=C(C=C2)N2C(O[C@H]([C@@H]2C2=CC=CC=C2)CNS(=O)(=O)C)=O)C=C1 | C23H21ClN2O5S
